US09079866B2
3-Amino-6-[3-fluoro-2′-(morpholin-4-ylcarbonyl)biphenyl-4-yl]pyrazine-2-carbonitrile
The title compound was prepared in a manner similar to that described in Example 88 using (2-bromophenyl)(morpholino)methanone and 3-amino-6-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazine-2-carbonitrile. MS (ESI): mass calcd. for C22H18FN5O2, 403.14; m/z found, 404.1 [M+H]+. 1H NMR (500 MHz, CD3OD) δ 7.45 (d, J=2.1, 1H), 6.71 (m, 1H), 6.32-6.21 (m, 3H), 6.17-6.10 (m, 2H), 6.07 (dd, J=12.4, 1.8, 1H), 2.40-2.22 (m, 3H), 2.13-2.03 (m, 2H), 1.86-1.77 (m, 1H), 1.62-1.49 (m, 2H).

reactant | (2-bromophenyl)(morpholino)methanone | BrC1=C(C=CC=C1)C(=O)N1CCOCC1 | C11H12BrNO2
reactant | 3-amino-6-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazine-2-carbonitrile | NC=1C(=NC(=CN1)C1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)F)C#N | C17H18BFN4O2
product | 3-Amino-6-[3-fluoro-2′-(morpholin-4-ylcarbonyl)biphenyl-4-yl]pyrazine-2-carbonitrile | NC=1C(=NC(=CN1)C1=C(C=C(C=C1)C1=C(C=CC=C1)C(=O)N1CCOCC1)F)C#N | C22H18FN5O2
